Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Tetracyclines
 
Attending: ___.
 
Chief Complaint:
Bilateral leg swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  
 ===========================  
___ yo M with HTN, asthma and prostate cancer (currently on 
surveillance) presenting with bilateral ___ edema for about a 
week. History was obtained from patient, patient's niece over 
phone, ___ sign out. 

I spoke to the patient's niece around 11pm and she noted at 
least one week of progressive bilateral ___ edema and fatigue. 
She went to his house on ___ (he lives alone) and found him 
sleepy with swollen feet. He often falls asleep on the sofa with 
his legs not elevated. She also notes recent weight loss, 
unknown amount. Noted he looked imbalanced last week. Patient 
has a ___ q ___ and ___, companion that comes q ___ for 2 
hours. He goes to adult daycare 3 days a week. He can bathe 
himself and use the bathroom, but his family has concerns about 
him cooking. Niece Also noted he has been losing his keys, for 
example at day care. Would like more support if possible. She 
called for PCP
appointment, and he was referred from clinic to the ___.

No recent med changes; has been on amlodipine for years. Per 
niece, he often does not take amlodipine. Per report, he has no 
other symptoms, including chest pain, shortness or breath, 
recent illness, HA, dizziness, N/V, abd pain, change in urinary 
function or urinary symptoms. 
  
In the ___, vitals were normal. He was breathing comfortably on 
room air. Exam revealed clear lungs, no murmurs, and bilateral 
pitting edema to the upper shins. He had intact pulses and 
sensation. Labs were notable for a normal pro-BNP of 144, 
Creatinine of 1.1 (baseline), ALT 56, AST 72, WBC 3.2. A CXR 
showed no acute process. EKG was notable for sinus rhythm with 
no active ischemia, and one PVC.
  
He was given home medications. Per report his family was 
concerned about the patient's ability to be independent at home 
and requested admission for further workup and physical therapy 
evaluation.  

Patient's daughter plans to come tomorrow afternoon.

Upon arrival to the floor, he notes 2 week history of edema and 
requests inhaler. When asked about other symptoms he shifted the 
conversation to his adult day care program. 

REVIEW OF SYSTEMS:  
==================  
per HPI, otherwise negative
 
Past Medical History:
 ASTHMA mild intermittent  
 MEMORY LOSS  
 TREMOR ___  mild, right hand, better with coffee  
 ELEVATED BLOOD PRESSURE  
 PROSTATE CANCER 
 GLAUCOMA 
 
Social History:
___
Family History:
 Father with prostate cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals: 
24 HR Data (last updated ___ @ 1127)
Temp: 97.7 (Tm 97.7), BP: 122/68 (122-180/68-86), HR: 58 
(54-83),
RR: 18, O2 sat: 93% (93-99), O2 delivery: Ra, Wt: 125 lb/56.7 kg 


GENERAL: Alert and interactive. In no acute distress.  
HEENT: PERRL. Sclera with injection. MMM.   
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.   
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.  
EXTREMITIES: 2+ pitting edema bilaterally to mid calf, venous
stasis pigmentation on lower legs
SKIN: Warm. No rash.  
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously.

DISCHARGE PHYSICAL EXAM:
========================
Vitals: 
24 HR Data (last updated ___ @ 1512)
    Temp: 97.3 (Tm 97.4), BP: 146/74 (136-167/68-79), HR: 77 
(56-77), RR: 16 (___), O2 sat: 98% (98-100), O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress.  
HEENT: PERRL. Sclera with injection. MMM.   
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.   
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.  
EXTREMITIES: 1+ pitting edema bilaterally to mid calf, venous 
stasis pigmentation on lower legs, compression stockings in 
place
SKIN: Warm. No rash.  
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously.
 
Pertinent Results:
ADMISSION LABS:
=================
___ 04:15PM BLOOD WBC-3.2* RBC-4.33* Hgb-13.5* Hct-44.1 
MCV-102* MCH-31.2 MCHC-30.6* RDW-12.2 RDWSD-45.6 Plt ___
___ 04:15PM BLOOD Neuts-69.8 Lymphs-15.1* Monos-13.6* 
Eos-0.9* Baso-0.3 Im ___ AbsNeut-2.26 AbsLymp-0.49* 
AbsMono-0.44 AbsEos-0.03* AbsBaso-0.01
___ 04:15PM BLOOD Glucose-113* UreaN-19 Creat-1.1 Na-141 
K-5.7* Cl-104 HCO3-24 AnGap-13
___ 04:15PM BLOOD ALT-56* AST-72* AlkPhos-95 TotBili-0.2
___ 04:15PM BLOOD Albumin-3.6
___ 04:15PM BLOOD Lipase-26
___ 04:15PM BLOOD proBNP-144

PERTINENT LABS:
=================
___ 06:50AM BLOOD TSH-4.5*
___ 06:50AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-POS*
___ 06:50AM BLOOD HCV Ab-NEG
___ 06:50AM BLOOD ALT-60* AST-58*

DISCHARGE LABS:
=================
___ 06:55AM BLOOD WBC-3.2* RBC-4.29* Hgb-13.4* Hct-42.6 
MCV-99* MCH-31.2 MCHC-31.5* RDW-12.1 RDWSD-44.0 Plt ___
___ 06:55AM BLOOD Glucose-66* UreaN-20 Creat-1.0 Na-144 
K-5.0 Cl-105 HCO3-25 AnGap-14
___ 06:55AM BLOOD Calcium-10.1 Phos-3.0 Mg-1.8

IMAGING/RESULTS:
=================
CXR ___:
No acute cardiopulmonary process.

RUQUS ___:
1. Liver parenchyma is within normal limits and there is no 
evidence of focal liver lesion. 
2. Bilateral minimally complex renal cysts noted. 

 
Brief Hospital Course:
PATIENT SUMMARY:
=============
___ with HTN and prostate cancer (under surveillance) admitted 
with new bilateral ___ edema and fatigue.

ACUTE ISSUES: 
============= 
#Bilateral lower extremity edema 
Patient reported increasing ___ edema for 1 week in the setting 
of sleeping upright in a chair. CXR and BNP were normal, making 
CHF unlikely. He had no evidence of proteinuria or hypoalbunemia 
suggestive of renal disease/nephrotic syndrome. He had mild 
transaminase elevation but no evidence of cirrhotic morphology 
on RUQ US. It was thought unlikely to be related to amlodipine 
given he has been taking it for years. There was low concern for 
DVT (___ score -1). His edema improved overnight after 
admission with leg elevation and compression stockings. His 
edema was thought to be likely due to venous insufficiency

#Transaminase elevation: 
He was noted to have mild elevations in AST and ALT. Viral 
serologies were negative, and a right upper quadrant ultrasound 
was unremarkable. Should be further monitored as an outpatient 
but remained stable while hospitalized

#Functional status: 
Patient was noted to live alone but not to be fully independent. 
Patient has ___, adult daycare, and companion services as well 
as supportive niece, who is HCP. He was evaluated by physical 
therapy and occupational therapy, who recommended discharge to 
home with max services. He was discharged and planned to stay 
with his family for a period of time with the hope of increasing 
services. 

CHRONIC ISSUES: 
============= 
#Prostate cancer: 
Intermediate risk prostate cancer which has been monitored with 
active surveillance, most recently stable with negative bone 
scan in ___. His PSA was noted to be stable at 11.9 
on most recent check

#Hypertension: 
His home amlodipine was continued.

#Glaucoma: 
His home latanoprost and Dorzolamide-timolol were continued.

#Asthma:
His home albuterol inhaler was continued.

> 30 minutes spent on discharge coordination and planning

TRANSITIONAL ISSUES:
=====================
[] Please consider additional home services and ability of 
patient to live independently - possibility of having patient go 
to day program five days a week?
[] Please consider adding controller medication for patient's 
asthma. Patient is unclear on how often he uses his inhaler, but 
may benefit from additional long acting therapy.
[] Discharged with ___, home ___, and home OT
[] OT recs: recommend supervision for stove/oven meal prep, 
assist with community
integration/money management, assist with setting up pillbox and 
daily reminders for medication compliance, and daily safety 
checks (between family, ___, companion, and attendance at adult 
day program).
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
2. amLODIPine 5 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea  

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea   
2.  amLODIPine 5 mg PO DAILY  
3.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
4.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___.
 
Discharge Diagnosis:
Lower leg edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  

Dear Mr. ___,
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
- You had some increased swelling in your lower legs.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You underwent testing, which included Xrays, an ultrasound and 
lab tests, which was re-assuring.
- Your swelling got better with leg elevation. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.

We wish you the best!

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___